US07323466B2
(R)-1-Chloro-3-(4-chloro-3-methyl-phenyl)-propan-2-ol
The solution of 1.0 g (4.9 mmol) 5-bromo-2-chlorotoluene in 10 mL toluene was cooled down to −70° C. and treated dropwise with 3.6 mL (5.4 mmol; 1.5M solution in toluene) tert-butyllithium. After 30 min. 0.42 mL (5.3 mmol) (R)-(−)-epichlorohydrin was added and the temperature was allowed to rise to 0° C. After 1 h the reaction mixture was diluted with ethyl acetate and extracted with 10% aqueous sodium bicarbonate solution followed by brine. The organic layer was dried over magnesium sulfate, filtered and evaporated and the residue was purified by column chromatography on silica gel with n-hexane:ethyl acetate (1:1) as eluant to give the title compound as a colorless oil (44.8%).

reactant | 5-bromo-2-chlorotoluene | 4.9 mmol, 1.0 g | BrC=1C=CC(=C(C1)C)Cl | C7H6BrCl
reactant | tert-butyllithium | 5.4 mmol, 1.5M, 3.6 mL | C(C)(C)(C)[Li]
reactant | (R)-(−)-epichlorohydrin | 5.3 mmol, 0.42 mL | C(Cl)[C@H]1CO1 | C3H5ClO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-1-Chloro-3-(4-chloro-3-methyl-phenyl)-propan-2-ol | 44.8% | ClC[C@@H](CC1=CC(=C(C=C1)Cl)C)O | C10H12Cl2O
